2192-08-18 07:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2192-8-17**] 09:00 AM
 MULTI LUMEN - START [**2192-8-17**] 12:50 PM
 EKG - At [**2192-8-17**] 02:00 PM
 ARTERIAL LINE - START [**2192-8-17**] 02:52 PM
 FEVER - 101.4
F - [**2192-8-17**] 11:00 AM- pan- cultured
   -on Levophed overnight for hypotension, given albumin and IVF for
   volume and poor UOP
   Allergies:
   Aspirin
   Unknown;
   Penicillins
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Gentamicin - [**2192-8-17**] 10:47 PM
   Aztreonam - [**2192-8-18**] 06:08 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2192-8-17**] 01:00 PM
   Heparin Sodium (Prophylaxis) - [**2192-8-18**] 04:05 AM
   Dextrose 50% - [**2192-8-18**] 06:47 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-8-18**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 36.7
C (98
   HR: 77 (77 - 106) bpm
   BP: 127/50(73) {76/37(48) - 127/60(316)} mmHg
   RR: 22 (15 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77 kg (admission): 64.8 kg
   Height: 66 Inch
    CVP: 11 (4 - 15)mmHg
   CO/CI (Fick): (6.4 L/min) / (3.7 L/min/m2)
   Mixed Venous O2% Sat: 72 - 73
   Total In:
                                                                 13,550 mL
                                                                  2,528 mL
   PO:
   TF:
                                                                     19 mL
   IVF:
                                                                  9,911 mL
                                                                  2,503 mL
   Blood products:
                                                                    500 mL
   Total out:
                                                                  1,255 mL
                                                                    590 mL
   Urine:
                                                                    955 mL
                                                                    190 mL
   NG:
                                                                    300 mL
                                                                    400 mL
   Stool:
   Drains:
   Balance:
                                                                 12,295 mL
                                                                  1,938 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (450 - 500) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 60%
   RSBI Deferred: FiO2 > 60%
   PIP: 31 cmH2O
   Plateau: 19 cmH2O
   Compliance: 45.5 cmH2O/mL
   SpO2: 98%
   ABG: 7.30/33/99.[**Numeric Identifier 128**]/16/-8
   Ve: 10.8 L/min
   PaO2 / FiO2: 165
   Physical Examination
   HEENT:NCAT mucus membranes dry pale conjunctiva
   CV: RRR S1S2 no m/r/g
   PULM: rales, crackles at RLL, scant crackles at LLL
   ABD: distended, soft +bs throughout
   EXT: WWP 1+dp pulses
   Labs / Radiology
   151 K/uL
   9.8 g/dL
   55 mg/dL
   1.6 mg/dL
   16 mEq/L
   5.9 mEq/L
   25 mg/dL
   117 mEq/L
   146 mEq/L
   30.8 %
   7.8 K/uL
        [image002.jpg]
                             [**2192-8-17**]  10:22 AM
                             [**2192-8-17**]  11:01 AM
                             [**2192-8-17**]  02:29 PM
                             [**2192-8-17**]  02:48 PM
                             [**2192-8-17**]  04:44 PM
                             [**2192-8-17**]  09:18 PM
                             [**2192-8-18**]  01:55 AM
                             [**2192-8-18**]  02:00 AM
                             [**2192-8-18**]  04:05 AM
                             [**2192-8-18**]  04:33 AM
   WBC
   4.2
   7.8
   Hct
   33.4
   30.8
   Plt
   138
   151
   Cr
   1.4
   1.6
   1.6
   TropT
   0.05
   TCO2
   18
   20
   18
   17
   16
   17
   17
   Glucose
   69
   62
   55
   Other labs: CK / CKMB / Troponin-T:69/4/0.05, Differential-Neuts:35.0
   %, Band:28.0 %, Lymph:11.0 %, Mono:7.0 %, Eos:0.0 %, Lactic Acid:4.9
   mmol/L, Albumin:1.8 g/dL, Ca++:6.6 mg/dL, Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   82 year old female with a history of breast cancer, CVA, hypertension
   who presents from rehab with pneumonia and septic physiology.
   Septic Shock:  Current differential includes pneumonia vs. urosepsis
   vs. GI source. Cultures grew [**Last Name (LF) **], [**First Name3 (LF) 178**] wait for speciation but until
   then continue to cover broadly. Sputum and urine cultures pending.
   Patient was noted to have distended abdomen on presentation, CT abdomen
   shows distended bladder, b/l hydroureters and gas/stool in bowel with
   some mild bowel thickening. There is no indication of obstruction but
   patient has not passed gas/stool since admission (unclear if this is
   chronic diarrhea). This is likely ileus secondary to acute illness and
   less likely an infectious source. For hypotension the patient received
   large volume of IV NS, LR.  Switched to D5 1/2NS w/bicarb d/t rising K
   and Na.
   - follow up sputum, urine cultures
   - continue  vancomycin, aztreonam, gentamycin
   - IVF boluses with normal saline to maintain MAP > 65, urine output >
   30 cc/hr, CVP 10-12
   - trend lactate
   - attempt to wean off levophed
   -monitor fever curve- patient initially febrile but became hypothermic
   overnight requiring bear hugger.
   -monitor WBC and diff
   Respiratory Failure: Patient on AC 500/8/60%.  PCO2 on ventilator is
   33.  Will wean FIO2 as tolerated today. Likely secondary to pneumonia.
   -f/u cultures and continue abx as above
   - wean FiO2 as tolerated
   -wean off sedation as tolerated- this will also assist with bowel
   motility
   ARF: Creatinine 2.0 from baseline of 0.6.  Likely prerenal in etiology
   secondary to volume depletion and septic shock.
   - IVF boluses to maintain urine output
   - trend creatinine
   EKG Changes:  Patient with ST depressions in the setting of sinus
   tachycardia to the 130s with upward trending CE. This is likely demand
   ischemia in setting of hypotension. Now that BP and tachycardia under
   control, warm and perfusing, can follow-up cardiac function with echo.
   - recheck EKG now that tachycardia has improved
   - ECHO if possible to evaluate for MI or change from prior
   Hypertension:
   - holding all antihypertensives in the setting of hypotension
   Dementia:  Currently intubated to difficult to assess mental status.
   - holding namenda and aricept for now
   FEN: IVF- D5
 NS, if bicarb trends downward can add [**12-6**]
 amps bicarb.
   Monitor and replete electrolytes as needed.
   Monitor K closely, add kayexelate if needed.
   NGT in place however has had high residuals overnight so should hold
   off on TF until bowel function improves.
   Prophylaxis: SC heparin, bowel regimen
   Communcation: Sister [**Name (NI) **] [**Name (NI) 5333**] [**Telephone/Fax (1) 5334**]
   Code: DNR per nursing home record signed by patient's sister.  Clarify
   goals of care with HCP.
   ICU [**Name2 (NI) **]
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2192-8-17**] 09:44 AM
   18 Gauge - [**2192-8-17**] 10:00 AM
   16 Gauge - [**2192-8-17**] 10:00 AM
   Multi Lumen - [**2192-8-17**] 12:50 PM
   Arterial Line - [**2192-8-17**] 02:52 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   MICU Attending Coverage Addendum
   I have reviewed the pertinent history and labs and have examined the
   patient. I was physically present with the MICU team for the key
   portions of the services provided.  I agree with the note above,
   including the assessment and plan.  I would add and emphasize the
   following:
   Overnight the patient was resuscitate with fluids for a low CVP and
   with this her BP is better and extremities now warm and Levophed being
   titrated down.  Lactate also trending down and U.O, somewhat better.
   On exam: Tm=101.4, P=71, BP=112/50, CVP=14, Po2=99 on 60% fi02  Sedated
   on vent Lungs show bronchia bs over RLL and to lesser extent at left
   base.
   Lab: WBC ony 7.8 but 28% bands   CXR: RLL infiltrate and ? left
   effusion vs infiltrate  Cortisol >40.  Ucx ngtd  BCx [**Year (4 digits) **] but not yet
   identified.
   Problems:
   1.       [**Name2 (NI) **] bacteremia and septic shock, improving with fluids,
   pressors, and abx (Aztreonam, Vanc, Levo, Gent), ? from lung or
   bladder, or abdominal source
   2.       RLL pneumonia
   3.       Renal insufficiency
   4.       EKG changes, likely demand ischemia
   5.       Prior DNR, currently reversed
   6.       Abd wall thickening on CT
   Plan:
   1.       Change fluids from RL to D5
   2.       Wean Fi02, levophed,  versed, and fentanyl
   3.       Follow EKG
   4.       Continue antibiotics with gent trough
   5.       Talk to sister about end of life issues again
   Patient Critically ill.  Total time: 50min
   [**First Name8 (NamePattern2) 4513**] [**Last Name (NamePattern1) 2045**], [**MD Number(1) 5352**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 4513**] [**Last Name (NamePattern1) 2045**], MD
   on:[**2192-8-18**] 14:34 ------

2192-08-19 07:31:00 Physician Resident Progress Note
Chief Complaint: 82 year old female with a history of breast cancer,
   CVA, HTN, who presents from rehab with pneumonia and sepsis with gram
   negative rods in the [** **] non-speciated.
   24 Hour Events:
 [** **] CULTURED - At [**2192-8-18**] 09:46 AM
 EKG - At [**2192-8-18**] 12:00 PM
 [**Year (4 digits) **] CULTURED - At [**2192-8-18**] 03:00 PM
   Attempted to wean patient off pressors yesterday. was off for about
   1-1.5 hours and then patient had to go back on for low [**Year (4 digits) **]
   pressures.  At 5 am levofed off. Fentanyl off, versed off. Urine
   culture growing back e. coli. 2 [**Year (4 digits) **] cultures now positive for e. coli
   as well.
   Allergies:
   Aspirin
   Unknown;
   Penicillins
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Gentamicin - [**2192-8-17**] 10:47 PM
   Aztreonam - [**2192-8-18**] 10:00 PM
   Levofloxacin - [**2192-8-19**] 05:00 AM
   Vancomycin 1 gram IV q 48
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2192-8-18**] 12:38 PM
   Heparin Sodium - [**2192-8-19**] 04:00 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: none
   Flowsheet Data as of  [**2192-8-19**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.3
C (97.3
   HR: 77 (68 - 77) bpm
   BP: 121/55(77) {100/45(61) - 145/58(84)} mmHg
   RR: 16 (4 - 24) insp/[**Year (4 digits) **]
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77 kg (admission): 64.8 kg
   Height: 66 Inch
    CVP: 12 (9 - 17)mmHg
   Total In:
                                                                  6,088 mL
                                                                    560 mL
   PO:
   TF:
   IVF:
                                                                  5,893 mL
                                                                    560 mL
   [**Year (4 digits) 1526**] products:
   Total out:
                                                                  1,430 mL
                                                                    333 mL
   Urine:
                                                                    685 mL
                                                                    263 mL
   NG:
                                                                    745 mL
                                                                     70 mL
   Stool:
   Drains:
   Balance:
                                                                  4,658 mL
                                                                    227 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 420 (420 - 500) mL
   Vt (Spontaneous): 501 (410 - 640) mL
   PS : 12 cmH2O
   RR (Set): 24
   RR (Spontaneous): 17
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 38
   PIP: 26 cmH2O
   Plateau: 17 cmH2O
   Compliance: 46.7 cmH2O/mL
   SpO2: 100%
   ABG: 7.32/39/117/18/-5
   Ve: 8.8 L/[**Year (4 digits) **]
   PaO2 / FiO2: 293
   Physical Examination
   General
 intubated, sedated
   HEENT:NCAT mucus membranes dry pale conjunctiva
   CV: RRR S1S2 no m/r/g
   PULM: rales, crackles at RLL, scant crackles at LLL
   ABD: distended, soft +bs throughout
   EXT: WWP 1+dp pulses
   Labs / Radiology
   104 K/uL
   8.5 g/dL
   78 mg/dL
   1.5 mg/dL
   18 mEq/L
   4.8 mEq/L
   28 mg/dL
   116 mEq/L
   142 mEq/L
   25.6 %
   8.9 K/uL
        [image002.jpg]
                             [**2192-8-18**]  09:19 AM
                             [**2192-8-18**]  09:45 AM
                             [**2192-8-18**]  10:39 AM
                             [**2192-8-18**]  03:39 PM
                             [**2192-8-18**]  04:52 PM
                             [**2192-8-18**]  09:18 PM
                             [**2192-8-18**]  09:30 PM
                             [**2192-8-18**]  09:47 PM
                             [**2192-8-19**]  05:00 AM
                             [**2192-8-19**]  05:13 AM
   WBC
   8.9
   Hct
   28.2
   28.3
   25.6
   Plt
   104
   Cr
   1.7
   1.6
   1.6
   1.5
   TCO2
   18
   17
   18
   14
   21
   Glucose
   72
   111
   110
   78
   Other labs: PT / PTT / INR:15.2/41.4/1.3, CK / CKMB /
   Troponin-T:69/4/0.05, ALT / AST:22/24, Alk Phos / T Bili:66/0.4,
   Differential-Neuts:90.0 %, Band:5.0 %, Lymph:3.0 %, Mono:2.0 %, Eos:0.0
   %, Lactic Acid:2.6 mmol/L, Albumin:2.2 g/dL, LDH:161 IU/L, Ca++:7.1
   mg/dL, Mg++:2.0 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   82 year old female with a history of breast cancer, CVA, hypertension
   who presents from rehab with pneumonia and septic physiology.
   Septic Shock:  Current differential includes pneumonia vs. urosepsis
   vs. GI source. Cultures currently growing e. coli in the urine and the
   [**Year (4 digits) **]. Sputum cultures with polys and 4+ oropharyngeal flora. Patient
   was noted to have distended abdomen on presentation, CT abdomen shows
   distended bladder, b/l hydroureters and gas/stool in bowel with some
   mild bowel thickening. There is no indication of obstruction but
   patient has not passed gas/stool since admission (unclear if this is
   chronic diarrhea). This is likely ileus secondary to acute illness and
   less likely an infectious source. For hypotension the patient received
   large volume of IV NS, LR.  Switched to D5 1/2NS w/bicarb d/t rising K
   and Na.
   - sputum cx/urine cx as above
   - currently on  vancomycin, aztreonam, gentamycin, levofloxacin
   - would like to peel off an antibiotic given that now growing e. coli
   in the urine and in the [**Last Name (LF) **], [**First Name3 (LF) 178**] wait on speciation until this
   evening
   - currently off all pressors, off sedation
   - currently now hypertensive
   - lactate this AM 2.6 which is down from 3.4
   -monitor WBC, CBC, diff
 decreased hct this AM
   monitor fever curve- patient initially febrile but became hypothermic
   requiring bear hugger, now normothermic
   Respiratory Failure: Initially respiratory failure thought to be due to
   pneumonia. Patient on CPAP Vt 420, PEEP 8, FiO2 40%..
   -culture data from sputum thus far has grown orophyaryngeal flora only
   - patient would be candidate for extubation if mental status were
   better, currently no gag as per nursing, however unclear if at baseline
   patient has gag
   -off sedation
    Hematocrit drop
    -Patient guaic positive in the ED, have not sent stool studies as
   patient has had no stool, however suspect positive
   - Coffee ground emesis from NG tube
   - Ordered iron studies for AM tomorrow
   ARF: Creatinine 2.0 on admission, from baseline of 0.6 today improved
   to 1.5.  Likely prerenal in etiology secondary to volume depletion and
   septic shock
 likely ATN.
   - IVF boluses to maintain urine output
   - trend creatinine
    EKG Changes:  Patient with ST depressions in the setting of sinus
   tachycardia to the 130s with upward trending CE. This is likely demand
   ischemia in setting of hypotension. Now that BP and tachycardia under
   control, warm and perfusing, can follow-up cardiac function with echo.
   - recheck EKG now that tachycardia has improved
   - ECHO ordered, not yet completed, unlikely to get done over the
   weekend
   - troponins on [**8-17**] were 0.02, 0.03, 0.05
   - no troponins drawn yesterday
   - put in add on troponins for this AM
    Hypertension:
   - initially holding anti-hypertensives in the setting  of hypotension
   - gave 10 IV hydral in the setting now of hypertension to 200 may be in
   the setting of agitation
   - will hold on lisinopril in the setting of acute renal failure
   - written for metoprolol 25 mg PO BID, will continue to uptitrate as
   tolerated by heart rate and [**Month/Year (2) **] pressure and use hydral PRN as needed
    Dementia:  Currently intubated to difficult to assess mental status.
   - holding namenda and aricept for now
   - will call [**Hospital3 **] today to try to find out what baseline mental
   status is, question as to whether patient has gag at baseline, what her
   baseline orientation is etc
    FEN:
   - pt currently with high residuals so not getting tube feeds
   - will start IV maintenance fluids at 100 cc/ hr of normal saline as
   patient not eating
   - patient with evidence of stool in distal [**Last Name (LF) 800**], [**First Name3 (LF) 178**] give her fleets
   enema today, hope that that will improve residuals and allow for tube
   feedings
   -Monitor and replete electrolytes as needed.
   -Monitor K closely, add kayexelate if needed.
   -NGT in place with coffee ground emesis
   Prophylaxis: SC heparin, bowel regimen
   Access: RIJ
   Communcation: Sister [**Name (NI) **] [**Name (NI) 5333**] [**Telephone/Fax (1) 5334**]
   Code: DNR per nursing home record signed by patient's sister.  Clarify
   goals of care with HCP.
   ICU [**Name2 (NI) **]
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2192-8-17**] 10:00 AM
   Multi Lumen - [**2192-8-17**] 12:50 PM
   Arterial Line - [**2192-8-17**] 02:52 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I examined the patient and reviewed the history and relevant labs. I
   was also physically present  with the MICU team during the key portions
   of the services provided.  I agree with the note above and its
   assessment and plan. I would add and emphasize the following:
   Overnight pt required levophed for short while but back off it. Now off
   Fentanyl and Versed to better assess mental status.  She is still on 4
   abx.
   On exam: afeb, BP= 121/55, p= 77, I/O= 4 L positive  On PSV 12, PEEP 8,
   40%, and VT = 500cc
   Pt grimaces to tactile rub, but no response to auditory.  Lungs clear,
   abd soft, Cor RRR
   Lab: urine Cx and [**Year (4 digits) 1526**] Cx positive for E Coli     Lactate down to
   2.4.   ABG: 7.32/39/117
   Impression:
   1.       E Coli Sepsis with septic shock, now much improved
   Hemodynamically.  Etiology of sepsis is either GU or resp
   2.       Pneumonia, HCAP vs aspiration
 Ecoli or other/anaerobe
   3.       Resp Failure due to #1 and #2
   4.       Pen Allergy
   5.       Obtundation/Dementia
 what is her baseline?  How much due to
   hypotension and/or fentanyl/versed residual effect?
   6.       Demand ischemia
   7.       Drop in Hct
   8.       ARF, due to hypotension,  improving
   9.       Prior DNR/DNI
 reversed by sister
   [**Name (NI) 440**]:
   1.       [**Name2 (NI) 5369**] antibiotics
   2.       Call Nursing home to assess her baseline mental status
   3.       Decrease PeeP
   4.       Keep I=O
   5.       Now that hypotension better, if her HTN recurs retitrate her
   HTN meds
   6.       Follow residuals as fentanyl off and enemas tried
   7.       Try to re initiate end of life wishes discussion with pt
   sister
   [**Name (NI) 53**] is critically ill.  Total time spent = 45 [**First Name8 (NamePattern2) **]
   [**First Name8 (NamePattern2) 4513**] [**Last Name (NamePattern1) 2045**], [**MD Number(1) 5370**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 4513**] [**Last Name (NamePattern1) 2045**], MD
   on:[**2192-8-19**] 17:34 ------

2192-08-20 06:54:00 Physician Resident Progress Note
Chief Complaint: Shortness of breath
   24 Hour Events:
   -Baseline status per nurse [**First Name (Titles) **] [**Hospital3 1152**]: Patient is minimally
   verbal at baseline. When you call her name she will look at you.  If
   you ask her how she is she will reply "fine" but she can't carry on a
   conversation.    She has a dense paralysis on the right side and does
   not spontaneously move unless stimulated by nursing staff.
   - RESPIRATORY CULTURE (Preliminary):    No growth
   - Urine culture - E coli
   - [**Hospital3 1526**] Culture, Routine (Final [**2192-8-19**]): E coli
   - Asked them to add on aztreonam sensitivities - if sensitive to
   aztreonam would consider d/c of gent
   Allergies:
   Aspirin
   Unknown;
   Penicillins
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2192-8-19**] 05:00 AM
   Vancomycin - [**2192-8-19**] 09:06 AM
   Gentamicin - [**2192-8-19**] 09:30 PM
   Aztreonam - [**2192-8-19**] 11:50 PM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Hydralazine - [**2192-8-19**] 01:26 PM
   Dextrose 50% - [**2192-8-19**] 03:27 PM
   Heparin Sodium - [**2192-8-19**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-8-20**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.9
C (98.5
   HR: 86 (73 - 92) bpm
   BP: 155/64(95) {120/50(73) - 325/115(105)} mmHg
   RR: 25 (0 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77 kg (admission): 64.8 kg
   Height: 66 Inch
    CVP: 14 (9 - 14)mmHg
   Total In:
                                                                  2,541 mL
                                                                    257 mL
   PO:
   TF:
   IVF:
                                                                  2,401 mL
                                                                    257 mL
   [**Year (4 digits) 1526**] products:
   Total out:
                                                                  1,563 mL
                                                                    545 mL
   Urine:
                                                                  1,473 mL
                                                                    510 mL
   NG:
                                                                     90 mL
                                                                     35 mL
   Stool:
   Drains:
   Balance:
                                                                    978 mL
                                                                   -288 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 452 (452 - 647) mL
   PS : 12 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 68
   RSBI Deferred: RR >35
   PIP: 18 cmH2O
   SpO2: 97%
   ABG: 7.36/34/126/18/-5
   Ve: 9.9 L/min
   PaO2 / FiO2: 315
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, Endotracheal
   tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), Hard to
   assess heart sounds since patient tachypneic with loud noises.
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present),
   Increased amplitude
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, Obese,
   Normal intercostal reflexes
   Extremities: Right: 2+, Left: 2+
   Musculoskeletal: Normal ROTs
   Skin:  Not assessed
   Neurologic: Responds to: Unresponsive, Movement: No spontaneous
   movement, Tone: Normal, Negative Babinsky; corneal reflex present,
   diminished gag reflex.
   Labs / Radiology
   104 K/uL
   8.7 g/dL
   83 mg/dL
   1.2 mg/dL
   18 mEq/L
   3.6 mEq/L
   25 mg/dL
   117 mEq/L
   143 mEq/L
   26.5 %
   10.8 K/uL
        [image002.jpg]
                             [**2192-8-18**]  04:52 PM
                             [**2192-8-18**]  09:18 PM
                             [**2192-8-18**]  09:30 PM
                             [**2192-8-18**]  09:47 PM
                             [**2192-8-19**]  05:00 AM
                             [**2192-8-19**]  05:13 AM
                             [**2192-8-19**]  12:00 PM
                             [**2192-8-19**]  05:37 PM
                             [**2192-8-20**]  04:45 AM
                             [**2192-8-20**]  05:03 AM
   WBC
   8.9
   10.8
   Hct
   28.2
   28.3
   25.6
   27.6
   26.5
   Plt
   104
   Cr
   1.6
   1.6
   1.5
   1.2
   TropT
   0.14
   0.14
   TCO2
   14
   21
   20
   20
   Glucose
   111
   110
   78
   83
   Other labs: PT / PTT / INR:14.6/41.4/1.3, CK / CKMB /
   Troponin-T:73/4/0.14, ALT / AST:22/24, Alk Phos / T Bili:66/0.4,
   Differential-Neuts:90.0 %, Band:5.0 %, Lymph:3.0 %, Mono:2.0 %, Eos:0.0
   %, Lactic Acid:2.6 mmol/L, Albumin:2.2 g/dL, LDH:161 IU/L, Ca++:7.6
   mg/dL, Mg++:1.8 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   82 year old female with a history of breast cancer, CVA, hypertension
   who presents from rehab with pneumonia and septic physiology.
    Septic Shock:  Current differential includes pneumonia vs. urosepsis
   vs. GI source. Cultures currently growing e. coli in the urine and the
   [**Year (4 digits) **]. Sputum cultures with polys and 4+ oropharyngeal flora. Patient
   was noted to have distended abdomen on presentation, CT abdomen shows
   distended bladder, b/l hydroureters and gas/stool in bowel with some
   mild bowel thickening. There is no indication of obstruction but
   patient has not passed gas/stool since admission (unclear if this is
   chronic diarrhea). This is likely ileus secondary to acute illness and
   less likely an infectious source. For hypotension the patient received
   large volume of IV NS, LR.  Switched to D5 1/2NS w/bicarb d/t rising K
   and Na.
   - sputum cx/urine cx as above
   - currently on  vancomycin, aztreonam, gentamycin, levofloxacin
   - would like to peel off an antibiotic given that now growing e. coli
   in the urine and in the [**Last Name (LF) **], [**First Name3 (LF) 178**] wait on speciation until this
   evening
   - currently off all pressors, off sedation
   - currently now hypertensive
   - lactate this AM 2.6 which is down from 3.4
   -monitor WBC, CBC, diff
 decreased hct this AM
   monitor fever curve- patient initially febrile but became hypothermic
   requiring bear hugger, now normothermic
   Respiratory Failure: Initially respiratory failure thought to be due to
   pneumonia. Patient on CPAP Vt 420, PEEP 8, FiO2 40%..
   -culture data from sputum thus far has grown orophyaryngeal flora only
   - patient would be candidate for extubation if mental status were
   better, currently no gag as per nursing, however unclear if at baseline
   patient has gag
   -off sedation
    Hematocrit drop
    -Patient guaic positive in the ED, have not sent stool studies as
   patient has had no stool, however suspect positive
   - Coffee ground emesis from NG tube
   - Ordered iron studies for AM tomorrow
   ARF: Creatinine 2.0 on admission, from baseline of 0.6 today improved
   to 1.5.  Likely prerenal in etiology secondary to volume depletion and
   septic shock
 likely ATN.
   - IVF boluses to maintain urine output
   - trend creatinine
    EKG Changes:  Patient with ST depressions in the setting of sinus
   tachycardia to the 130s with upward trending CE. This is likely demand
   ischemia in setting of hypotension. Now that BP and tachycardia under
   control, warm and perfusing, can follow-up cardiac function with echo.
   - recheck EKG now that tachycardia has improved
   - ECHO ordered, not yet completed, unlikely to get done over the
   weekend
   - troponins on [**8-17**] were 0.02, 0.03, 0.05
   - no troponins drawn yesterday
   - put in add on troponins for this AM
    Hypertension:
   - initially holding anti-hypertensives in the setting  of hypotension
   - gave 10 IV hydral in the setting now of hypertension to 200 may be in
   the setting of agitation
   - will hold on lisinopril in the setting of acute renal failure
   - written for metoprolol 25 mg PO BID, will continue to uptitrate as
   tolerated by heart rate and [**Month/Year (2) **] pressure and use hydral PRN as needed
    Dementia:  Currently intubated to difficult to assess mental status.
   - holding namenda and aricept for now
   - will call [**Hospital3 **] today to try to find out what baseline mental
   status is, question as to whether patient has gag at baseline, what her
   baseline orientation is etc
    FEN:
   - pt currently with high residuals so not getting tube feeds
   - will start IV maintenance fluids at 100 cc/ hr of normal saline as
   patient not eating
   - patient with evidence of stool in distal [**Last Name (LF) 800**], [**First Name3 (LF) 178**] give her fleets
   enema today, hope that that will improve residuals and allow for tube
   feedings
   -Monitor and replete electrolytes as needed.
   -Monitor K closely, add kayexelate if needed.
   -NGT in place with coffee ground emesis
   Prophylaxis: SC heparin, bowel regimen
   Access: RIJ
   Communcation: Sister [**Name (NI) **] [**Name (NI) 5333**] [**Telephone/Fax (1) 5334**]
   Code: DNR per nursing home record signed by patient's sister.  Clarify
   goals of care with HCP.
   ICU [**Name2 (NI) **]
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2192-8-17**] 12:50 PM
   Arterial Line - [**2192-8-17**] 02:52 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2192-08-20 12:03:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   Acute Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   patient with tachycardia and hypotension in the setting of wean of
   sedation
   increased pulmonary secreations noted across the morning
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Aspirin
   Unknown;
   Penicillins
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2192-8-19**] 05:00 AM
   Vancomycin - [**2192-8-19**] 09:06 AM
   Gentamicin - [**2192-8-19**] 09:30 PM
   Aztreonam - [**2192-8-20**] 08:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Hydralazine - [**2192-8-19**] 01:26 PM
   Dextrose 50% - [**2192-8-19**] 03:27 PM
   Heparin Sodium - [**2192-8-19**] 08:00 PM
   Fentanyl - [**2192-8-20**] 09:00 AM
   Midazolam (Versed) - [**2192-8-20**] 09:15 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-8-20**] 11:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 38.4
C (101.1
   HR: 100 (73 - 117) bpm
   BP: 153/63(93) {120/50(73) - 325/115(112)} mmHg
   RR: 28 (12 - 34) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 77 kg (admission): 64.8 kg
   Height: 66 Inch
   CVP: 9 (7 - 14)mmHg
   Total In:
                                                                  2,541 mL
                                                                  1,452 mL
   PO:
   TF:
   IVF:
                                                                  2,401 mL
                                                                  1,367 mL
   Blood products:
   Total out:
                                                                  1,563 mL
                                                                  1,705 mL
   Urine:
                                                                  1,473 mL
                                                                  1,670 mL
   NG:
                                                                     90 mL
                                                                     35 mL
   Stool:
   Drains:
   Balance:
                                                                    978 mL
                                                                   -253 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 420 (420 - 420) mL
   Vt (Spontaneous): 354 (354 - 610) mL
   PS : 15 cmH2O
   RR (Set): 24
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 20 cmH2O
   SpO2: 97%
   ABG: 7.40/30/74/18/-4
   Ve: 9 L/min
   PaO2 / FiO2: 185
   Physical Examination
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender
   Extremities: Right: 2+, Left: 2+
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.7 g/dL
   84 K/uL
   83 mg/dL
   1.2 mg/dL
   18 mEq/L
   3.6 mEq/L
   25 mg/dL
   117 mEq/L
   143 mEq/L
   26.5 %
   10.8 K/uL
        [image002.jpg]
                             [**2192-8-18**]  09:18 PM
                             [**2192-8-18**]  09:30 PM
                             [**2192-8-18**]  09:47 PM
                             [**2192-8-19**]  05:00 AM
                             [**2192-8-19**]  05:13 AM
                             [**2192-8-19**]  12:00 PM
                             [**2192-8-19**]  05:37 PM
                             [**2192-8-20**]  04:45 AM
                             [**2192-8-20**]  05:03 AM
                             [**2192-8-20**]  07:34 AM
   WBC
   8.9
   10.8
   Hct
   28.3
   25.6
   27.6
   26.5
   Plt
   104
   84
   Cr
   1.6
   1.5
   1.2
   TropT
   0.14
   0.14
   TCO2
   14
   21
   20
   20
   19
   Glucose
   110
   78
   83
   Other labs: PT / PTT / INR:14.6/41.4/1.3, CK / CKMB /
   Troponin-T:73/4/0.14, ALT / AST:22/24, Alk Phos / T Bili:66/0.4,
   Differential-Neuts:90.0 %, Band:5.0 %, Lymph:3.0 %, Mono:2.0 %, Eos:0.0
   %, Lactic Acid:2.6 mmol/L, Albumin:2.2 g/dL, LDH:161 IU/L, Ca++:7.6
   mg/dL, Mg++:1.8 mg/dL, PO4:2.1 mg/dL
   Imaging: CXR-Suggestion of hyperinflation on the CXR.  ETT at 5cm above
   carina, left sided consolidation persists.
   Assessment and Plan
   82 yo female with admission with pneumonia and sepsis complicated by
   acute respiratory failure.  She now has difficulty with wean of
   ventilator support largely driven by the increase in secretions this
   morning.  In addition the marked changes in hemodynamics at the time of
   decrease in sedation may be related to anxiety/background HTN but more
   likely and more important would be evidence that patient is not ready
   to accept extubation successfully.
   Sepsis
She has multiple organisms identified and it may well be primary
   pulmonary insult with sepsis as result and aspiration pneumonia is
   perhaps most likely.
   -Levo/Vanco/Aztreonam/Gent
   -Aztreonam-For coverage of aspiration related organisms
   -Gent-For expanded gram negative converage
   Acute Respiratory Failure
Hypoxemic respiratory failure.  She has
   improved hemodynamics at this time.  She, however, has continued
   significant secretions and limited mental status to allow safe attempt
   at extubation
   -Continue with pneumonia Rx
   -PSV at 15/5
   -Will continue with PEEP increase if hypoxemia continuting.
   Hypertension-
   -Hydralazine and will up titrate B-blocker as stability of hemodynamics
   around extubation is essential.
   Dementia
near baseline status per family
   ICU Care
   Nutrition: Tube Feeds to resume
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2192-8-17**] 12:50 PM
   Arterial Line - [**2192-8-17**] 02:52 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: Bundle in place
   Comments:
   Communication:  Comments:
   Code status: Full code
will need to clarify goals fo care prior to move
   to extubation.
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2192-08-21 07:39:00 Physician Resident Progress Note
Chief Complaint: 82 year old female with hx of breast cancer, CVa, htn
   who presetns from rehab with pneumonia and urosepsis growing E. coli in
   her blood and her urine.
   24 Hour Events:
 SPUTUM CULTURE - At [**2192-8-20**] 08:16 AM
 TRANSTHORACIC ECHO - At [**2192-8-20**] 10:30 AM
 FEVER - 101.1
F - [**2192-8-20**] 09:00 AM
   Yesterday, d/c vancomycin and levofloxacin as patient had e. coli in
   the urine and the blood. still with thick secretions. peep was weaned
   overnight. otherwise quiet night.
   Allergies:
   Aspirin
   Unknown;
   Penicillins
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2192-8-19**] 05:00 AM
   Vancomycin - [**2192-8-19**] 09:06 AM
   Gentamicin - [**2192-8-20**] 10:00 PM
   Aztreonam - [**2192-8-20**] 11:53 PM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Fentanyl - [**2192-8-20**] 09:00 AM
   Midazolam (Versed) - [**2192-8-20**] 09:15 AM
   Pantoprazole (Protonix) - [**2192-8-20**] 08:00 PM
   Heparin Sodium - [**2192-8-21**] 04:00 AM
   Hydralazine - [**2192-8-21**] 05:35 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems:none
   Flowsheet Data as of  [**2192-8-21**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 35.8
C (96.5
   HR: 92 (68 - 117) bpm
   BP: 152/58(88) {111/53(71) - 201/73(112)} mmHg
   RR: 30 (12 - 32) insp/min
   SpO2: 100%
   Heart rhythm: WAP (Wandering atrial pacemaker)
   Wgt (current): 77 kg (admission): 64.8 kg
   Height: 66 Inch
    CVP: 4 (3 - 12)mmHg
   Total In:
                                                                  2,326 mL
                                                                    952 mL
   PO:
   TF:
                                                                    238 mL
                                                                    140 mL
   IVF:
                                                                  1,783 mL
                                                                    542 mL
   Blood products:
   Total out:
                                                                  2,193 mL
                                                                    548 mL
   Urine:
                                                                  2,158 mL
                                                                    548 mL
   NG:
                                                                     35 mL
   Stool:
   Drains:
   Balance:
                                                                    133 mL
                                                                    404 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 420 (420 - 420) mL
   Vt (Spontaneous): 535 (354 - 626) mL
   PS : 8 cmH2O
   RR (Set): 24
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 51
   PIP: 20 cmH2O
   SpO2: 100%
   ABG: 7.38/33/106/19/-4
   Ve: 10.5 L/min
   PaO2 / FiO2: 265
   Physical Examination
   General Appearance: sedated, intubated
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), no murmur
   appreciated
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   91 K/uL
   9.5 g/dL
   95 mg/dL
   1.0 mg/dL
   19 mEq/L
   3.1 mEq/L
   24 mg/dL
   116 mEq/L
   143 mEq/L
   28.6 %
   17.0 K/uL
        [image002.jpg]
                             [**2192-8-19**]  05:00 AM
                             [**2192-8-19**]  05:13 AM
                             [**2192-8-19**]  12:00 PM
                             [**2192-8-19**]  05:37 PM
                             [**2192-8-20**]  04:45 AM
                             [**2192-8-20**]  05:03 AM
                             [**2192-8-20**]  07:34 AM
                             [**2192-8-20**]  03:29 PM
                             [**2192-8-21**]  03:16 AM
                             [**2192-8-21**]  03:31 AM
   WBC
   8.9
   10.8
   17.0
   Hct
   25.6
   27.6
   26.5
   28.6
   Plt
   104
   84
   91
   Cr
   1.5
   1.2
   1.0
   TropT
   0.14
   0.14
   TCO2
   21
   20
   20
   19
   22
   20
   Glucose
   78
   83
   95
   Other labs: PT / PTT / INR:16.2/31.9/1.4, CK / CKMB /
   Troponin-T:73/4/0.14, ALT / AST:22/24, Alk Phos / T Bili:66/0.4,
   Differential-Neuts:90.0 %, Band:5.0 %, Lymph:3.0 %, Mono:2.0 %, Eos:0.0
   %, Lactic Acid:2.6 mmol/L, Albumin:2.2 g/dL, LDH:161 IU/L, Ca++:7.5
   mg/dL, Mg++:1.7 mg/dL, PO4:1.9 mg/dL
   Chest x-ray
 ET tube 4 cm above carina, R lung base with consolidation
   Assessment and Plan
   82 year old female with a history of breast cancer, CVA, hypertension
   who presents from rehab with pneumonia and septic physiology.
    Septic Shock:  Patient was with SIRS now with E coli in blood and
   urine. CXR shows bibasilar consolidations as well. Sputum culture with
   gram + cocci. There is some mild enteritis as well. Patient received
   fluid resucitation; here presentation lactate was 3.4, then trended
   down.
   - repeat sputum culture wtih 3+ gram positive cocci in pairs and
   chains, with 2+ oropharyngeal flora, nothing speciated out yet
   - currently on  aztreonam, gentamycin Day [**2-11**], yesterday vanco and levo
   were d/c, spiked fever to 101
   - currently off all pressors, off sedation and now hypertensive
   -monitor WBC, CBC, diff
   -monitor fever curve- patient initially febrile but became hypothermic
   requiring bear hugger, now normothermic
   Respiratory Failure: Initially respiratory failure thought to be due to
   pneumonia. Patient on CPAP 8/5 with 40% O2; with thick secretions. O2
   sats in monitor are ok. + Gag reflex. Mental status is non-responsive.
   Patient without much secretions.
   -culture data from sputum thus far has grown orophyaryngeal flora only,
   now with 3+ gram positive cocci in pairs, awaiting speciation
   - start vanco back up, get ID approval
   - will decrease pressure support to [**4-9**] and wean sedation, consider
   trial of extubation today
   - would like to add back gram + coverage as was d/c yesterday given
   flora findings above
   - + gag reflex
   - increased secretions, likely not candidate for extubation today
   - Suction PRN
    Hypertension:
   - initially holding anti-hypertensives in the setting  of hypotension
   - gave 10 IV hydral in the setting now of hypertension to 200 may be in
   the setting of agitation, would like to get away from IV hydral and
   titrate up beta blocker
   - consider restarting lisinopril once acute renal failure improves,
   home dose 2.5 ( would rather titrate up beta blocker at this time)
   -Increase metoprolol today (to 50 [**Hospital1 **]), as per notes was suppose to be
   done yesterday but was not, decreased holding parameters to HR < 60 and
   SBP < 100
   Anemia: Hematocrit drop; normocytic normochromic with iron profile
   sugesting chornic disease or infection. It is not that likely massive
   GI bleed in patient that did not move bowels since blood is prokinetic.
   Will guaiac stool when available.
   - crit is stable
    -Patient guaic positive in the ED, have not sent stool studies as
   patient has had no stool, however suspect positive
   - Coffee ground emesis from NG tube; guaiac negative
   - continue to follow
    ARF: Creatinine 2.0 on admission, from baseline of 0.6 today improved
   to 1.0.  Likely prerenal in etiology secondary to volume depletion and
   septic shock
 likely ATN. No cast seen in UA, but it was not fresh.
   Today
s eGFR is 46 (MDRD formula) so may restart ACEI.
   - trend creatinine
   -Maintain adequate BP and hydration
    EKG Changes:  Patient with ST depressions in the setting of sinus
   tachycardia to the 130s with upward trending CE. This is likely demand
   ischemia in setting of hypotension. Now that BP and tachycardia under
   control, warm and perfusing, can follow-up cardiac function with echo.
   - recheck EKG now that tachycardia has improved
   - ECHO from [**8-20**] - IMPRESSION: Mild focal LV systolic dysfunction.
   Mildly dilated right ventricle. Mild to moderate aortic regurgitation.
   Moderately dilated ascending aorta.
   - troponins slighlty increased, but in settig of sepsis may represent
   myocardial stunning, also echo is reassuming that there is no regional
   wall motion abnormalities
   Dementia:  Currently intubated to difficult to assess mental status.
   - holding namenda and aricept for now
   FEN:
   - residuals improve, restarted tube feedings, holding this AM in the
   setting of considering extubation
   -Monitor and replete electrolytes as needed.
   Prophylaxis: SC heparin, bowel regimen
   Access: RIJ
   Communcation: Sister [**Name (NI) **] [**Name (NI) 5333**] [**Telephone/Fax (1) 5334**]
   Code: currently full code, as initial DNR was reversed by HCP. [**Name (NI) **]
   need to re-establish if patient would be re-intubated pending failure
   of extubation.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2192-8-17**] 12:50 PM
   Arterial Line - [**2192-8-17**] 02:52 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2192-08-21 11:57:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 SPUTUM CULTURE - At [**2192-8-20**] 08:16 AM
 TRANSTHORACIC ECHO - At [**2192-8-20**] 10:30 AM
 FEVER - 101.1
F - [**2192-8-20**] 09:00 AM
   Patient with continued PSV support
   Pulmonary secretions continue
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Aspirin
   Unknown;
   Penicillins
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2192-8-19**] 05:00 AM
   Vancomycin - [**2192-8-19**] 09:06 AM
   Gentamicin - [**2192-8-20**] 10:00 PM
   Aztreonam - [**2192-8-21**] 08:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2192-8-20**] 08:00 PM
   Heparin Sodium - [**2192-8-21**] 04:00 AM
   Hydralazine - [**2192-8-21**] 05:35 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-8-21**] 11:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.1
C (97
   HR: 95 (68 - 95) bpm
   BP: 169/62(95) {111/53(71) - 170/72(106)} mmHg
   RR: 28 (12 - 30) insp/min
   SpO2: 100%
   Heart rhythm: WAP (Wandering atrial pacemaker)
   Wgt (current): 77 kg (admission): 64.8 kg
   Height: 66 Inch
   CVP: 5 (3 - 12)mmHg
   Total In:
                                                                  2,326 mL
                                                                  1,074 mL
   PO:
   TF:
                                                                    238 mL
                                                                    140 mL
   IVF:
                                                                  1,783 mL
                                                                    664 mL
   Blood products:
   Total out:
                                                                  2,193 mL
                                                                    698 mL
   Urine:
                                                                  2,158 mL
                                                                    698 mL
   NG:
                                                                     35 mL
   Stool:
   Drains:
   Balance:
                                                                    133 mL
                                                                    376 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 427 (427 - 626) mL
   PS : 8 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 51
   PIP: 14 cmH2O
   SpO2: 100%
   ABG: 7.38/33/106/19/-4
   Ve: 12 L/min
   PaO2 / FiO2: 265
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.5 g/dL
   91 K/uL
   95 mg/dL
   1.0 mg/dL
   19 mEq/L
   3.1 mEq/L
   24 mg/dL
   116 mEq/L
   143 mEq/L
   28.6 %
   17.0 K/uL
        [image002.jpg]
                             [**2192-8-19**]  05:00 AM
                             [**2192-8-19**]  05:13 AM
                             [**2192-8-19**]  12:00 PM
                             [**2192-8-19**]  05:37 PM
                             [**2192-8-20**]  04:45 AM
                             [**2192-8-20**]  05:03 AM
                             [**2192-8-20**]  07:34 AM
                             [**2192-8-20**]  03:29 PM
                             [**2192-8-21**]  03:16 AM
                             [**2192-8-21**]  03:31 AM
   WBC
   8.9
   10.8
   17.0
   Hct
   25.6
   27.6
   26.5
   28.6
   Plt
   104
   84
   91
   Cr
   1.5
   1.2
   1.0
   TropT
   0.14
   0.14
   TCO2
   21
   20
   20
   19
   22
   20
   Glucose
   78
   83
   95
   Other labs: PT / PTT / INR:16.2/31.9/1.4, CK / CKMB /
   Troponin-T:73/4/0.14, ALT / AST:22/24, Alk Phos / T Bili:66/0.4,
   Differential-Neuts:90.0 %, Band:5.0 %, Lymph:3.0 %, Mono:2.0 %, Eos:0.0
   %, Lactic Acid:2.6 mmol/L, Albumin:2.2 g/dL, LDH:161 IU/L, Ca++:7.5
   mg/dL, Mg++:1.7 mg/dL, PO4:1.9 mg/dL
   Fluid analysis / Other labs: 7.38/33/96
   Imaging: CXR-ETT and NGT in good position, poor technique for
   evaluation of lung fields.
   Assessment and Plan
   Patient with hypoxemic respiratory failure and now with imroved
   oxygenation and ventilation but with continued barriers to extubation
   primarily driven by persistent secretions and low grade fever.  This,
   it must be noted, is in the setting of rising WBC count.
   1)Respiratory Failure-
   -Patient with Rx ongoing for probable pulmonary infection.
   -She has had return of gag reflex
   -Her sputum volume had decreased to suctioning every 4 hours by nursing
   with perhaps some additional by respiratory
   -She has maintained reasonable support with PSV at 8/5 with Ve
   requirement of 10 lpm
   -Given fever and WBC increased to 17 will maintain Vanco/Gent
   -Goal is to D/C sedation and trial extubation today
   2)Sepsis-
   -E.Coli seen in urine and blood
   -Sputum not revealing
   -Hemodynamics improved
   -Low grade fevers and rising WBC count are of concern and will maintain
   broad spectrum antibiotics
   -Vanco/Gent to continue
   3)Dementia-
   -Patient described as verbal with one word answers at baseline
   -Will hope to see further improvement with discontinuation of sedating
   medications.
   gg
   ICU Care
   Nutrition: npo
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2192-8-17**] 12:50 PM
   Arterial Line - [**2192-8-17**] 02:52 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2192-08-22 07:17:00 Physician Resident Progress Note
Chief Complaint: 82 year old female with history fo breast cancer, CVA,
   HTN who presents from rehab with likely pneumonia and UTI leading to
   sepsis.
   24 Hour Events:
   Yesterday, decreased pressure supports. this morning on [**2124-4-9**]% and
   RSBI of 56. still with moderate thick yellow secretions.
   Hemodynamically stable. Family meeting yesterday confirmed tha tpatient
   is indeed full code.  Vancomycin was restarted yesterday with concern
   for increased sputum and in the setting of sputum with gram positive
   cocci in pairs. Patient was ordered for potassium scale given low K.
   Allergies:
   Aspirin
   Unknown;
   Penicillins
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Aztreonam - [**2192-8-21**] 08:00 AM
   Vancomycin - [**2192-8-21**] 03:00 PM
   Gentamicin - [**2192-8-21**] 09:24 PM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Hydralazine - [**2192-8-21**] 10:54 PM
   Heparin Sodium (Prophylaxis) - [**2192-8-22**] 03:30 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: none
   Flowsheet Data as of  [**2192-8-22**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.4
C (99.3
   HR: 79 (79 - 98) bpm
   BP: 142/62(86) {142/57(85) - 181/72(106)} mmHg
   RR: 22 (21 - 29) insp/min
   SpO2: 100%
   Heart rhythm: WAP (Wandering atrial pacemaker)
   Wgt (current): 77 kg (admission): 64.8 kg
   Height: 66 Inch
    CVP: 8 (2 - 10)mmHg
   Total In:
                                                                  1,615 mL
                                                                    192 mL
   PO:
   TF:
                                                                    140 mL
   IVF:
                                                                  1,155 mL
                                                                    152 mL
   Blood products:
   Total out:
                                                                  2,018 mL
                                                                  1,080 mL
   Urine:
                                                                  2,018 mL
                                                                  1,080 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -403 mL
                                                                   -888 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 447 (423 - 464) mL
   PS : 5 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 56
   PIP: 13 cmH2O
   SpO2: 100%
   ABG: 7.41/37/107/21/0
   Ve: 11.3 L/min
   PaO2 / FiO2: 268
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   104 K/uL
   9.0 g/dL
   145
   0.8 mg/dL
   21 mEq/L
   2.7 mEq/L
   18 mg/dL
   113 mEq/L
   142 mEq/L
   27.1 %
   22.6 K/uL
        [image002.jpg]
                             [**2192-8-20**]  04:45 AM
                             [**2192-8-20**]  05:03 AM
                             [**2192-8-20**]  07:34 AM
                             [**2192-8-20**]  03:29 PM
                             [**2192-8-21**]  03:16 AM
                             [**2192-8-21**]  03:31 AM
                             [**2192-8-21**]  07:50 PM
                             [**2192-8-22**]  04:10 AM
                             [**2192-8-22**]  05:33 AM
                             [**2192-8-22**]  06:00 AM
   WBC
   10.8
   17.0
   22.6
   Hct
   26.5
   28.6
   27.1
   Plt
   84
   91
   104
   Cr
   1.2
   1.0
   0.8
   TropT
   0.14
   TCO2
   20
   19
   22
   20
   22
   24
   Glucose
   83
   95
   37
   40
   145
   Other labs: PT / PTT / INR:14.8/26.7/1.3, CK / CKMB /
   Troponin-T:73/4/0.14, ALT / AST:22/24, Alk Phos / T Bili:66/0.4,
   Differential-Neuts:90.0 %, Band:5.0 %, Lymph:3.0 %, Mono:2.0 %, Eos:0.0
   %, Lactic Acid:2.6 mmol/L, Albumin:2.2 g/dL, LDH:161 IU/L, Ca++:7.3
   mg/dL, Mg++:1.8 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   82 year old female with a history of breast cancer, CVA, hypertension
   who presents from rehab with pneumonia, urinary tract infection, and
   septic physiology.
    Septic Shock:  Patient was with SIRS with E coli in blood and urine.
   CXR shows bibasilar consolidations as well concerning for possible
   pneumonia. Sputum culture with gram + cocci however this has not grown
   out so far in speciation. There is some mild enteritis as wel as CTl.
   Presentation lactate was 3.4, then trended down.
   - repeat sputum culture wtih 3+ gram positive cocci in pairs and
   chains, with 2+ oropharyngeal flora, speciation partial only with oral
   flora currently
   - currently on  gentamycin Day [**3-13**], yesterday restrated vancomycin
   - currently off all pressors, now hypertensive
   -monitor WBC, CBC, diff
   - wbc count continuese to trend up
 will send repeat ua and urine
   culture as well as stool culture and c. diff and follow-up
   -monitor fever curve- patient initially febrile but became hypothermic
   requiring bear hugger, now normothermic
    Respiratory Failure: Initially respiratory failure thought to be due
   to pneumonia. Patient on pressure support [**4-9**] with 40% O2; with thick
   secretions. + Gag reflex prior although not too much with deep
   suctioning this morning. Patient squeezing hands this morning.
   -culture data from sputum thus far has grown orophyaryngeal flora only,
   now with 3+ gram positive cocci in pairs, awaiting speciation
   - vanc day 2, gentamicin day [**3-13**].
   - Suction PRN
   - will hold on extubation this morning despite excellent vent settings
   secondary to copious secretions
   - will shut off sedation and see if mental status improves, stronger
   cough and stronger gag prior to extubation
    Hypertension:
   - initially holding anti-hypertensives in the setting  of hypotension
   - gave 10 IV hydral in the setting of hypertension to 200 may be in the
   setting of agitation, would like to get away from IV hydral and titrate
   up beta blocker as tolerated
   - will restart lisinopril today now that acute renal failure has
   resolved, home dose 2.5
   -Increase metoprolol today (to 50 TID),  holding parameters to HR < 60
   and SBP < 100
    Anemia: Hematocrit drop; normocytic normochromic with iron profile
   sugesting chornic disease or infection. It is not that likely massive
   GI bleed in patient that did not move bowels since blood is prokinetic.
   Will guaiac stool when available.
   - crit is stable
   -Patient guaic positive in the ED, have not sent stool studies as
   patient has had no stool, however suspect positive
   - Coffee ground emesis from NG tube; guaiac negative
   - continue to follow
    ARF: Creatinine 2.0 on admission, from baseline of 0.6 today improved
   to 1.0.  Likely prerenal in etiology secondary to volume depletion and
   septic shock
 likely ATN. No cast seen in UA, but it was not fresh.
   Today
s eGFR is 46 (MDRD formula) so may restart ACEI.
   - trend creatinine
   -Maintain adequate BP and hydration
   EKG Changes:  Patient with ST depressions in the setting of sinus
   tachycardia to the 130s with multiple negative troponins. This is
   likely demand ischemia in setting of hypotension. Now that BP and
   tachycardia under control, warm and perfusing, can follow-up cardiac
   function with echo.
   - repeat EKG from [**8-20**] EKG Sinus rhythm. Premature ventricular
   contractions. Poor R wave progression may be lead placement or possible
   old anterior myocardial infarction. Compared to
   the previous tracing of [**2192-8-18**] axis has shifted rightward. Ventricular
   ectopy is new.
   - ECHO from [**8-20**] - IMPRESSION: Mild focal LV systolic dysfunction.
   Mildly dilated right ventricle. Mild to moderate aortic regurgitation.
   Moderately dilated ascending aorta.
   - troponins slighlty increased, but in settig of sepsis may represent
   myocardial stunning, also echo is reassuming that there is no regional
   wall motion abnormalities
    Dementia:  Currently intubated to difficult to assess mental status.
   - restart namenda and aricept for now
   FEN:
   - residuals improve, re-start tube feedings in the setting of holding
   off on extubation today
   -Monitor and replete electrolytes as needed.
   Prophylaxis: SC heparin, bowel regimen
    Access: RIJ
   Communcation: Sister [**Name (NI) **] [**Name (NI) 5333**] [**Telephone/Fax (1) 5334**]
    Code: Full Code.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2192-8-17**] 12:50 PM
   Arterial Line - [**2192-8-17**] 02:52 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2192-08-22 12:12:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   PSV wean to [**4-9**] with FIO2=0.4 and ABG normalized
   Allergies:
   Aspirin
   Unknown;
   Penicillins
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Aztreonam - [**2192-8-21**] 08:00 AM
   Gentamicin - [**2192-8-21**] 09:24 PM
   Vancomycin - [**2192-8-22**] 08:12 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Hydralazine - [**2192-8-21**] 10:54 PM
   Heparin Sodium (Prophylaxis) - [**2192-8-22**] 03:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-8-22**] 12:05 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.7
C (98
   HR: 67 (67 - 98) bpm
   BP: 165/67(99) {142/57(85) - 181/72(106)} mmHg
   RR: 22 (21 - 29) insp/min
   SpO2: 100%
   Heart rhythm: WAP (Wandering atrial pacemaker)
   Wgt (current): 77 kg (admission): 64.8 kg
   Height: 66 Inch
   CVP: 8 (2 - 10)mmHg
   Total In:
                                                                  1,615 mL
                                                                    445 mL
   PO:
   TF:
                                                                    140 mL
   IVF:
                                                                  1,155 mL
                                                                    405 mL
   Blood products:
   Total out:
                                                                  2,018 mL
                                                                  1,380 mL
   Urine:
                                                                  2,018 mL
                                                                  1,380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -403 mL
                                                                   -935 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 354 (354 - 447) mL
   PS : 5 cmH2O
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 56
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.41/37/107/21/0
   Ve: 10.6 L/min
   PaO2 / FiO2: 268
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
she does follow commands.
   Labs / Radiology
   9.0 g/dL
   104 K/uL
   145
   0.8 mg/dL
   21 mEq/L
   2.7 mEq/L
   18 mg/dL
   113 mEq/L
   142 mEq/L
   27.1 %
   22.6 K/uL
        [image002.jpg]
                             [**2192-8-20**]  04:45 AM
                             [**2192-8-20**]  05:03 AM
                             [**2192-8-20**]  07:34 AM
                             [**2192-8-20**]  03:29 PM
                             [**2192-8-21**]  03:16 AM
                             [**2192-8-21**]  03:31 AM
                             [**2192-8-21**]  07:50 PM
                             [**2192-8-22**]  04:10 AM
                             [**2192-8-22**]  05:33 AM
                             [**2192-8-22**]  06:00 AM
   WBC
   10.8
   17.0
   22.6
   Hct
   26.5
   28.6
   27.1
   Plt
   84
   91
   104
   Cr
   1.2
   1.0
   0.8
   TropT
   0.14
   TCO2
   20
   19
   22
   20
   22
   24
   Glucose
   83
   95
   37
   40
   145
   Other labs: PT / PTT / INR:14.8/26.7/1.3, CK / CKMB /
   Troponin-T:73/4/0.14, ALT / AST:22/24, Alk Phos / T Bili:66/0.4,
   Differential-Neuts:90.0 %, Band:5.0 %, Lymph:3.0 %, Mono:2.0 %, Eos:0.0
   %, Lactic Acid:2.6 mmol/L, Albumin:2.2 g/dL, LDH:161 IU/L, Ca++:7.3
   mg/dL, Mg++:1.8 mg/dL, PO4:2.3 mg/dL
   Imaging: No new CXR
   Microbiology: No new results
   E.Coli from previous results
   Assessment and Plan
   82 yo female with respiratory failure and persistent pulmonary
   secretions.  Mental status has been impaired but it is likely near her
   baseline function.  There were extensive discussions with the patient's
   sister and daughter to clarify current clinical course.  They would
   endorse full code status and re-intubation if patient were to fail
   trial of extubation.
   With that clarified patient has had good tolerance of PSV and retains
   altered mental status and pulmonary secretions as the primary barriers
   to extubation.
   1)Respiratory Failure-Has good tolerance of PSV wean but persistent and
   signficiant secreations remain at issue.  She has had improved
   responsiveness.  With suctioning there are fairly high volume of
   secreations noted and suctioning has been every 1-2 hours.  This in
   combination with impaired gag reflex does raise concerns for successful
   extubation.
   -Continue with PSV today
   -Continue with Vanco/Gent
   -Will wake up and re-trial SBT in am
   2)Sepsis-
   -Check C. Diff
   -Check differential
   -Reculture if fever seen
   -This leukocytsis will have to be explained but does not appear to be
   recurrence of sepsis at this time.
   Vanco/Gent
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2192-8-17**] 12:50 PM
   Arterial Line - [**2192-8-17**] 02:52 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2192-08-23 07:14:00 Physician Resident Progress Note
Chief Complaint: 82 year old female with h/o breast cancer, cva, htn
   who presented from rehab with pneumonia, uti with sepsis physiology.
   s/p intubation.
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2192-8-22**] 09:00 AM
 URINE CULTURE - At [**2192-8-23**] 12:23 AM
   -Yesterday per nursing thought that patient not be ready for extubation
   with lots of secretions.
   - restarted namenda and aricept
   - low potassium yesterday morning, got repletion with IV sliding scale
   - fingersticks was 37 yesterday morning, then subsequently 61 (got [**12-7**]
   amp d50) - which was not written for by M.D.
   - tube feeds were not re-started yesterday morning, even though it was
   decided on rounds to restart b/c did not extubate patient
   - spoke with evening nurse, restarted tube feeds, sent stool for c.
   diff (nurse [**First Name (Titles) 5426**] [**Last Name (Titles) 5427**] like c. diff) so placed patient on
   precautions
   - repeat ca and phos low, repleted, still low
   - repeat UA still with large LE, WBCs, RBcs, urine cx pending
   - got repleted but phos didn't change, off Versed overnight, had to go
   back on fentanyl, d/c fentayl drip 5 am will bolus as needed with goal
   to wean this morning
   - Gent level this morning 3.8
   Allergies:
   Aspirin
   Unknown;
   Penicillins
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Aztreonam - [**2192-8-21**] 08:00 AM
   Vancomycin - [**2192-8-22**] 08:12 AM
   Gentamicin - [**2192-8-22**] 11:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2192-8-22**] 12:00 PM
   Fentanyl - [**2192-8-22**] 05:57 PM
   Dextrose 50% - [**2192-8-22**] 06:53 PM
   Heparin Sodium (Prophylaxis) - [**2192-8-23**] 04:00 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: none
   Flowsheet Data as of  [**2192-8-23**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.7
C (98
   HR: 83 (67 - 108) bpm
   BP: 143/52(80) {124/45(67) - 190/75(112)} mmHg
   RR: 29 (0 - 37) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77 kg (admission): 64.8 kg
   Height: 66 Inch
    CVP: 8 (6 - 9)mmHg
   Total In:
                                                                    823 mL
                                                                    765 mL
   PO:
   TF:
                                                                     79 mL
                                                                    140 mL
   IVF:
                                                                    554 mL
                                                                    125 mL
   Blood products:
   Total out:
                                                                  2,500 mL
                                                                    490 mL
   Urine:
                                                                  2,500 mL
                                                                    490 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,677 mL
                                                                    275 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 414 (305 - 473) mL
   PS : 5 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 94
   PIP: 11 cmH2O
   SpO2: 96%
   ABG: ///21/
   Ve: 9.8 L/min
   Physical Examination
   General
 intubated, sedated, nad
   Cards
 RRR, nl s1/s2, no murmurs appreciated
   Pulm- bronchial breath sounds right side, left lung more clear
   Abdomen -soft, non-tender, non-distended
   Extremities
 warm and well perfused, 2+ radial pulses trace edema feet
   b/l
   Labs / Radiology
   133 K/uL
   8.8 g/dL
   90 mg/dL
   0.7 mg/dL
   21 mEq/L
   3.7 mEq/L
   16 mg/dL
   116 mEq/L
   144 mEq/L
   26.8 %
   22.8 K/uL
        [image002.jpg]
                             [**2192-8-20**]  07:34 AM
                             [**2192-8-20**]  03:29 PM
                             [**2192-8-21**]  03:16 AM
                             [**2192-8-21**]  03:31 AM
                             [**2192-8-21**]  07:50 PM
                             [**2192-8-22**]  04:10 AM
                             [**2192-8-22**]  05:33 AM
                             [**2192-8-22**]  06:00 AM
                             [**2192-8-22**]  07:59 PM
                             [**2192-8-23**]  03:58 AM
   WBC
   17.0
   22.6
   22.8
   Hct
   28.6
   27.1
   26.8
   Plt
   91
   104
   133
   Cr
   1.0
   0.8
   0.7
   0.7
   TCO2
   19
   22
   20
   22
   24
   Glucose
   95
   37
   40
   145
   61
   90
   Other labs: PT / PTT / INR:15.1/26.8/1.3, CK / CKMB /
   Troponin-T:73/4/0.14, ALT / AST:22/24, Alk Phos / T Bili:66/0.4,
   Differential-Neuts:92.1 %, Band:5.0 %, Lymph:4.4 %, Mono:3.0 %, Eos:0.4
   %, Lactic Acid:2.6 mmol/L, Albumin:2.2 g/dL, LDH:161 IU/L, Ca++:7.6
   mg/dL, Mg++:1.7 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   82 year old female with a history of breast cancer, CVA, hypertension
   who presents from rehab with pneumonia, urinary tract infection, and
   septic physiology.
    Septic Shock:  Patient was with SIRS with E coli in blood and urine.
   CXR shows bibasilar consolidations as well concerning for possible
   pneumonia. Sputum culture with gram + cocci however this has not grown
   out so far in speciation. There is some mild enteritis as wel as CTl.
   Presentation lactate was 3.4, then trended down.
- repeat sputum culture - GRAM STAIN (Final [**2192-8-20**]): >25 PMNs and <10 epitheli
[**Doctor Last Name **] cells/100X field. 3+  (5-10 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS AND CHAINS.
2+   (1-5 per 1000X FIELD):   MULTIPLE ORGANISMS CONSISTENT WITH
                                    OROPHARYNGEAL FLORA.
RESPIRATORY CULTURE (Final [**2192-8-22**]): SPARSE GROWTH OROPHARYNGEAL FLORA.
   Urine -urine cx - URINE CULTURE (Final [**2192-8-20**]):
         ESCHERICHIA COLI.    10,000-100,000 ORGANISMS/ML..
            PRESUMPTIVE IDENTIFICATION.
         PROVIDENCIA STUARTII.    10,000-100,000 ORGANISMS/ML..
                                 SENSITIVITIES: MIC expressed in MCG/ML
   _________________________________________________________
                                ESCHERICHIA COLI
                                |          PROVIDENCIA STUARTII
                                |          |
   AMIKACIN--------------              <=2 S
   AMPICILLIN------------    16 I
   AMPICILLIN/SULBACTAM--     4 S
   CEFAZOLIN-------------   <=4 S
   CEFEPIME--------------   <=1 S      <=1 S
   CEFTAZIDIME-----------   <=1 S      <=1 S
   CEFTRIAXONE-----------   <=1 S      <=1 S
   CEFUROXIME------------     4 S
   CIPROFLOXACIN---------   =>4 R      =>4 R
   GENTAMICIN------------   <=1 S        8 I
   MEROPENEM-------------<=0.25 S   <=0.25 S
   NITROFURANTOIN--------  <=16 S      256 R
   PIPERACILLIN----------   <=4 S      <=4 S
   PIPERACILLIN/TAZO-----   <=4 S      <=4 S
   TOBRAMYCIN------------   <=1 S        8 I
TRIMETHOPRIM/SULFA----   <=1 S      <=1 S
   - currently on  gentamycin Day [**4-12**] to cover for urosepsis as well as
   possible healthcare associated pneumonia, vancomycin for possible
   healthcare associated pneumonia, given sensitivities above will change
   to amikacin and keep vancomycin
   - currently off all pressors, now hypertensive
   -monitor WBC, CBC, diff
   - wbc count continuese to trend up
 will send repeat ua and urine
   culture as well as stool culture and c. diff and follow-up
   -monitor fever curve- patient initially febrile but became hypothermic
   requiring bear hugger, now normothermic
    Respiratory Failure: Initially respiratory failure thought to be due
   to pneumonia. Patient on pressure support [**4-9**] with 40% O2; with thick
   secretions, however looks like working harder to breath with tachypnea.
   + Gag reflex prior although not too much with deep suctioning this
   morning. Patient squeezing hands this morning.
   -culture data and antibiotics as above
   - Suction PRN
   - will go up on pressure support today to 10 or 12 to improve breathing
   - continue sedation for now
    Hypertension:
   - initially holding anti-hypertensives in the setting  of hypotension
   - gave 10 IV hydral in the setting of hypertension to 200 may be in the
   setting of agitation, would like to get away from IV hydral and titrate
   up beta blocker as tolerated
   - lisinopril 2.5 mg daily
   -metoprolol 50 mg TID, consider furthur uptitration as tolerated
   post-extubation
   - lasix today for blood pressure control as well as fluid removal
    Anemia: Hematocrit drop; normocytic normochromic with iron profile
   sugesting chornic disease or infection. It is not that likely massive
   GI bleed in patient that did not move bowels since blood is prokinetic.
   Will guaiac stool when available.
   - crit is stable
   -Patient guaic positive in the ED, have not sent stool studies as
   patient has had no stool, however suspect positive
   - Coffee ground emesis from NG tube; guaiac negative
   - continue to follow
    ARF: Creatinine 2.0 on admission, from baseline of 0.6 today improved
   to 0.7.  Likely prerenal in etiology secondary to volume depletion and
   septic shock
 likely ATN. No cast seen in UA, but it was not fresh.
   Today
s eGFR is 46 (MDRD formula) so may restart ACEI.
   - trend creatinine
   -Maintain adequate BP and hydration
   EKG Changes:  Patient with ST depressions in the setting of sinus
   tachycardia to the 130s with multiple negative troponins. This is
   likely demand ischemia in setting of hypotension. Now that BP and
   tachycardia under control, warm and perfusing, can follow-up cardiac
   function with echo.
   - repeat EKG from [**8-20**] EKG Sinus rhythm. Premature ventricular
   contractions. Poor R wave progression may be lead placement or possible
   old anterior myocardial infarction. Compared to
   the previous tracing of [**2192-8-18**] axis has shifted rightward. Ventricular
   ectopy is new.
   - ECHO from [**8-20**] - IMPRESSION: Mild focal LV systolic dysfunction.
   Mildly dilated right ventricle. Mild to moderate aortic regurgitation.
   Moderately dilated ascending aorta.
   - troponins slighlty increased, but in settig of sepsis may represent
   myocardial stunning, also echo is reassuming that there is no regional
   wall motion abnormalities
    Dementia:  Currently intubated to difficult to assess mental status.
   - restart namenda and aricept yesterday
   FEN:
   - restart tube feeds
   -check pm lytes, replete electrolytes as needed.
   Prophylaxis: SC heparin, holding bowel regimen for diarrhea
    Access: RIJ
   Communcation: Sister [**Name (NI) **] [**Name (NI) 5333**] [**Telephone/Fax (1) 5334**]
    Code: Full Code.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2192-8-17**] 12:50 PM
   Arterial Line - [**2192-8-17**] 02:52 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2192-08-23 09:58:00 Physician Attending Progress Note
Chief Complaint: sepsis and respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   82 yo women with h/o breast CA, admitted with urosepsis, respiratory
   failure.  Has improved.  Ventilator weaned down, and having ++
   secretions.  Off versed overnight.   Having diarrhea.
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2192-8-22**] 09:00 AM
 URINE CULTURE - At [**2192-8-23**] 12:23 AM
   Allergies:
   Aspirin
   Unknown;
   Penicillins
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Aztreonam - [**2192-8-21**] 08:00 AM
   Gentamicin - [**2192-8-22**] 11:00 PM
   Vancomycin - [**2192-8-23**] 08:10 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2192-8-22**] 12:00 PM
   Fentanyl - [**2192-8-22**] 05:57 PM
   Dextrose 50% - [**2192-8-22**] 06:53 PM
   Heparin Sodium (Prophylaxis) - [**2192-8-23**] 04:00 AM
   Other medications:
   SSI
   lopressor
   lisinopril
   donepezil
   nimenda
   tylenol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-8-23**] 09:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36
C (96.8
   HR: 90 (67 - 108) bpm
   BP: 162/61(95) {124/45(67) - 190/75(112)} mmHg
   RR: 36 (0 - 37) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77 kg (admission): 64.8 kg
   Height: 66 Inch
   CVP: 4 (4 - 9)mmHg
   Total In:
                                                                    823 mL
                                                                  1,045 mL
   PO:
   TF:
                                                                     79 mL
                                                                    140 mL
   IVF:
                                                                    554 mL
                                                                    325 mL
   Blood products:
   Total out:
                                                                  2,500 mL
                                                                    650 mL
   Urine:
                                                                  2,500 mL
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,677 mL
                                                                    395 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 414 (305 - 473) mL
   PS : 5 cmH2O
   RR (Spontaneous): 33
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 94
   PIP: 11 cmH2O
   SpO2: 92%
   ABG: ///21/
   Ve: 14 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Musculoskeletal: Unable to stand
   Skin:  Warm, Rash:
   Neurologic: No(t) Follows simple commands, Responds to: Tactile
   stimuli, Movement: Not assessed, Tone: Not assessed, no left leg
   movements
   Labs / Radiology
   8.8 g/dL
   133 K/uL
   90 mg/dL
   0.7 mg/dL
   21 mEq/L
   3.7 mEq/L
   16 mg/dL
   116 mEq/L
   144 mEq/L
   26.8 %
   22.8 K/uL
        [image002.jpg]
                             [**2192-8-20**]  07:34 AM
                             [**2192-8-20**]  03:29 PM
                             [**2192-8-21**]  03:16 AM
                             [**2192-8-21**]  03:31 AM
                             [**2192-8-21**]  07:50 PM
                             [**2192-8-22**]  04:10 AM
                             [**2192-8-22**]  05:33 AM
                             [**2192-8-22**]  06:00 AM
                             [**2192-8-22**]  07:59 PM
                             [**2192-8-23**]  03:58 AM
   WBC
   17.0
   22.6
   22.8
   Hct
   28.6
   27.1
   26.8
   Plt
   91
   104
   133
   Cr
   1.0
   0.8
   0.7
   0.7
   TCO2
   19
   22
   20
   22
   24
   Glucose
   95
   37
   40
   145
   61
   90
   Other labs: PT / PTT / INR:15.1/26.8/1.3, CK / CKMB /
   Troponin-T:73/4/0.14, ALT / AST:22/24, Alk Phos / T Bili:66/0.4,
   Differential-Neuts:92.1 %, Band:5.0 %, Lymph:4.4 %, Mono:3.0 %, Eos:0.4
   %, Lactic Acid:2.6 mmol/L, Albumin:2.2 g/dL, LDH:161 IU/L, Ca++:7.6
   mg/dL, Mg++:1.7 mg/dL, PO4:2.0 mg/dL
   Microbiology: Urine cx.  with E. coli and Providencia
   Assessment and Plan
   Respiratory failure:  Seems grossly fluid overloaded.  Will diurese.
   Does not seem ready to extubate given tachypnea and poor cough.
   Pulmonary Edema:  IV diuresis.
   UTI:  Change gentamicin to amikacin as providentia has intermediate
   resistence to tobra.
   HTN:
   Anemia: Stable
   ARF:  improved
   Diarrhea:  Follow up C. diff
   ICU Care
   Nutrition:
   Comments: restart TFs
   Glycemic Control:
   Lines:
   Multi Lumen - [**2192-8-17**] 12:50 PM
   Arterial Line - [**2192-8-17**] 02:52 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2192-08-24 06:21:00 Physician Resident Progress Note
Chief Complaint: 82 year old female with history of breast cancer, CVA,
   htn, who presents from rehab with pneumonia and urosepsis.
   24 Hour Events:
 EKG - At [**2192-8-24**] 12:30 AM
   Allergies:
   Aspirin
   Unknown;
   Penicillins
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Aztreonam - [**2192-8-21**] 08:00 AM
   Gentamicin - [**2192-8-22**] 11:00 PM
   Vancomycin - [**2192-8-23**] 08:10 AM
   Amikacin - [**2192-8-23**] 05:04 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2192-8-23**] 06:07 PM
   Heparin Sodium (Prophylaxis) - [**2192-8-23**] 08:00 PM
   Pantoprazole (Protonix) - [**2192-8-24**] 12:31 AM
   Fentanyl - [**2192-8-24**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-8-24**] 06:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.4
C (97.6
   HR: 75 (65 - 93) bpm
   BP: 170/53(89) {128/48(72) - 182/75(108)} mmHg
   RR: 27 (16 - 37) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77 kg (admission): 64.8 kg
   Height: 66 Inch
    CVP: 7 (-2 - 7)mmHg
   Total In:
                                                                  1,851 mL
                                                                    356 mL
   PO:
   TF:
                                                                    586 mL
                                                                    346 mL
   IVF:
                                                                    475 mL
                                                                     10 mL
   Blood products:
   Total out:
                                                                  3,470 mL
                                                                    700 mL
   Urine:
                                                                  3,470 mL
                                                                    640 mL
   NG:
                                                                     60 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,619 mL
                                                                   -344 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 316 (316 - 460) mL
   PS : 10 cmH2O
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 119
   PIP: 16 cmH2O
   SpO2: 97%
   ABG: 7.49/31/121/22/2
   Ve: 9.4 L/min
   PaO2 / FiO2: 303
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   195 K/uL
   8.7 g/dL
   141 mg/dL
   0.9 mg/dL
   22 mEq/L
   4.0 mEq/L
   17 mg/dL
   112 mEq/L
   141 mEq/L
   26.1 %
   24.0 K/uL
        [image002.jpg]
                             [**2192-8-21**]  03:31 AM
                             [**2192-8-21**]  07:50 PM
                             [**2192-8-22**]  04:10 AM
                             [**2192-8-22**]  05:33 AM
                             [**2192-8-22**]  06:00 AM
                             [**2192-8-22**]  07:59 PM
                             [**2192-8-23**]  03:58 AM
                             [**2192-8-23**]  05:43 PM
                             [**2192-8-23**]  08:36 PM
                             [**2192-8-24**]  03:46 AM
   WBC
   22.6
   22.8
   24.0
   Hct
   27.1
   26.8
   26.1
   Plt
   104
   133
   195
   Cr
   0.8
   0.7
   0.7
   0.8
   0.9
   TCO2
   20
   22
   24
   24
   Glucose
   37
   40
   145
   61
   90
   104
   141
   Other labs: PT / PTT / INR:13.9/26.8/1.2, CK / CKMB /
   Troponin-T:73/4/0.14, ALT / AST:22/24, Alk Phos / T Bili:66/0.4,
   Differential-Neuts:92.1 %, Band:5.0 %, Lymph:4.4 %, Mono:3.0 %, Eos:0.4
   %, Lactic Acid:2.6 mmol/L, Albumin:2.2 g/dL, LDH:161 IU/L, Ca++:7.3
   mg/dL, Mg++:1.6 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   82 year old female with a history of breast cancer, CVA, hypertension
   who presents from rehab with pneumonia, urinary tract infection, and
   septic physiology.
    Septic Shock:  Patient was with SIRS with E coli in blood and urine.
   CXR shows bibasilar consolidations as well concerning for possible
   pneumonia. Sputum culture with gram + cocci however this has not grown
   out so far in speciation. There is some mild enteritis as wel as CTl.
   Presentation lactate was 3.4, then trended down.
   - repeat sputum culture - GRAM STAIN (Final [**2192-8-20**]): >25 PMNs and <10
   epithelial cells/100X field. 3+  (5-10 per 1000X FIELD):   GRAM
   POSITIVE COCCI. IN PAIRS AND CHAINS.
   2+   (1-5 per 1000X FIELD):   MULTIPLE ORGANISMS CONSISTENT WITH
   OROPHARYNGEAL FLORA.
   RESPIRATORY CULTURE (Final [**2192-8-22**]): SPARSE GROWTH OROPHARYNGEAL
   FLORA.
   Urine -urine cx - URINE CULTURE (Final [**2192-8-20**]):
   ESCHERICHIA COLI.    10,000-100,000 ORGANISMS/ML..
            PRESUMPTIVE IDENTIFICATION.
         PROVIDENCIA STUARTII.    10,000-100,000 ORGANISMS/ML..
                                 SENSITIVITIES: MIC expressed in MCG/ML
   _________________________________________________________
                                ESCHERICHIA COLI
                                |          PROVIDENCIA STUARTII
                                |          |
   AMIKACIN--------------              <=2 S
   AMPICILLIN------------    16 I
   AMPICILLIN/SULBACTAM--     4 S
   CEFAZOLIN-------------   <=4 S
   CEFEPIME--------------   <=1 S      <=1 S
   CEFTAZIDIME-----------   <=1 S      <=1 S
   CEFTRIAXONE-----------   <=1 S      <=1 S
   CEFUROXIME------------     4 S
   CIPROFLOXACIN---------   =>4 R      =>4 R
   GENTAMICIN------------   <=1 S        8 I
   MEROPENEM-------------<=0.25 S   <=0.25 S
   NITROFURANTOIN--------  <=16 S      256 R
   PIPERACILLIN----------   <=4 S      <=4 S
   PIPERACILLIN/TAZO-----   <=4 S      <=4 S
   TOBRAMYCIN------------   <=1 S        8 I
   TRIMETHOPRIM/SULFA----   <=1 S      <=1 S
   - currently on  gentamycin Day [**4-12**] to cover for urosepsis as well as
   possible healthcare associated pneumonia, vancomycin for possible
   healthcare associated pneumonia, given sensitivities above will change
   to amikacin and keep vancomycin
   - currently off all pressors, now hypertensive
   -monitor WBC, CBC, diff
   - wbc count continuese to trend up
 will send repeat ua and urine
   culture as well as stool culture and c. diff and follow-up
   -monitor fever curve- patient initially febrile but became hypothermic
   requiring bear hugger, now normothermic
    Respiratory Failure: Initially respiratory failure thought to be due
   to pneumonia. Patient on pressure support [**4-9**] with 40% O2; with thick
   secretions, however looks like working harder to breath with tachypnea.
   + Gag reflex prior although not too much with deep suctioning this
   morning. Patient squeezing hands this morning.
   -culture data and antibiotics as above
   - Suction PRN
   - will go up on pressure support today to 10 or 12 to improve breathing
   - continue sedation for now
    Hypertension:
   - initially holding anti-hypertensives in the setting  of hypotension
   - gave 10 IV hydral in the setting of hypertension to 200 may be in the
   setting of agitation, would like to get away from IV hydral and titrate
   up beta blocker as tolerated
   - lisinopril 2.5 mg daily
   -metoprolol 50 mg TID, consider furthur uptitration as tolerated
   post-extubation
   - lasix today for blood pressure control as well as fluid removal
    Anemia: Hematocrit drop; normocytic normochromic with iron profile
   sugesting chornic disease or infection. It is not that likely massive
   GI bleed in patient that did not move bowels since blood is prokinetic.
   Will guaiac stool when available.
   - crit is stable
   -Patient guaic positive in the ED, have not sent stool studies as
   patient has had no stool, however suspect positive
   - Coffee ground emesis from NG tube; guaiac negative
   - continue to follow
    ARF: Creatinine 2.0 on admission, from baseline of 0.6 today improved
   to 0.7.  Likely prerenal in etiology secondary to volume depletion and
   septic shock
 likely ATN. No cast seen in UA, but it was not fresh.
   Today
s eGFR is 46 (MDRD formula) so may restart ACEI.
   - trend creatinine
   -Maintain adequate BP and hydration
   EKG Changes:  Patient with ST depressions in the setting of sinus
   tachycardia to the 130s with multiple negative troponins. This is
   likely demand ischemia in setting of hypotension. Now that BP and
   tachycardia under control, warm and perfusing, can follow-up cardiac
   function with echo.
   - repeat EKG from [**8-20**] EKG Sinus rhythm. Premature ventricular
   contractions. Poor R wave progression may be lead placement or possible
   old anterior myocardial infarction. Compared to
   the previous tracing of [**2192-8-18**] axis has shifted rightward. Ventricular
   ectopy is new.
   - ECHO from [**8-20**] - IMPRESSION: Mild focal LV systolic dysfunction.
   Mildly dilated right ventricle. Mild to moderate aortic regurgitation.
   Moderately dilated ascending aorta.
   - troponins slighlty increased, but in settig of sepsis may represent
   myocardial stunning, also echo is reassuming that there is no regional
   wall motion abnormalities
    Dementia:  Currently intubated to difficult to assess mental status.
   - restart namenda and aricept yesterday
   FEN:
   - restart tube feeds
   -check pm lytes, replete electrolytes as needed.
   Prophylaxis: SC heparin, holding bowel regimen for diarrhea
    Access: RIJ
   Communcation: Sister [**Name (NI) **] [**Name (NI) 5333**] [**Telephone/Fax (1) 5334**]
    Code: Full Code.
   ICU Care
   Nutrition:
   Impact with Fiber (Full) - [**2192-8-23**] 01:49 PM 55 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2192-8-17**] 12:50 PM
   Arterial Line - [**2192-8-17**] 02:52 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2192-08-24 12:08:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2192-8-24**] 12:30 AM
   Increased levels of PSV rquired for treatment despite decresed
   secretions
   Amikacin started and Gent D/C'd
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Aspirin
   Unknown;
   Penicillins
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Gentamicin - [**2192-8-22**] 11:00 PM
   Vancomycin - [**2192-8-24**] 08:03 AM
   Amikacin - [**2192-8-24**] 08:04 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2192-8-23**] 06:07 PM
   Heparin Sodium (Prophylaxis) - [**2192-8-23**] 08:00 PM
   Pantoprazole (Protonix) - [**2192-8-24**] 12:31 AM
   Fentanyl - [**2192-8-24**] 04:00 AM
   Hydralazine - [**2192-8-24**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-8-24**] 11:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 73 (65 - 96) bpm
   BP: 144/54(82) {128/48(72) - 182/75(108)} mmHg
   RR: 22 (16 - 35) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77 kg (admission): 64.8 kg
   Height: 66 Inch
   CVP: 5 (-2 - 7)mmHg
   Total In:
                                                                  1,851 mL
                                                                    649 mL
   PO:
   TF:
                                                                    586 mL
                                                                    339 mL
   IVF:
                                                                    475 mL
                                                                    310 mL
   Blood products:
   Total out:
                                                                  3,470 mL
                                                                  2,075 mL
   Urine:
                                                                  3,470 mL
                                                                  2,015 mL
   NG:
                                                                     60 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,619 mL
                                                                 -1,426 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 422 (316 - 460) mL
   PS : 12 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 119
   PIP: 18 cmH2O
   SpO2: 99%
   ABG: 7.49/31/121/22/2
   Ve: 8.5 L/min
   PaO2 / FiO2: 303
   Physical Examination
   General Appearance: Thin
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Distended
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed-_She does respond to tactile stimulus and moves all
   extremities.  Her pupils are equal, small and minimally reactive, She
   does have cough with suctioning
   Labs / Radiology
   8.7 g/dL
   195 K/uL
   141 mg/dL
   0.9 mg/dL
   22 mEq/L
   4.0 mEq/L
   17 mg/dL
   112 mEq/L
   141 mEq/L
   26.1 %
   24.0 K/uL
        [image002.jpg]
                             [**2192-8-21**]  03:31 AM
                             [**2192-8-21**]  07:50 PM
                             [**2192-8-22**]  04:10 AM
                             [**2192-8-22**]  05:33 AM
                             [**2192-8-22**]  06:00 AM
                             [**2192-8-22**]  07:59 PM
                             [**2192-8-23**]  03:58 AM
                             [**2192-8-23**]  05:43 PM
                             [**2192-8-23**]  08:36 PM
                             [**2192-8-24**]  03:46 AM
   WBC
   22.6
   22.8
   24.0
   Hct
   27.1
   26.8
   26.1
   Plt
   104
   133
   195
   Cr
   0.8
   0.7
   0.7
   0.8
   0.9
   TCO2
   20
   22
   24
   24
   Glucose
   37
   40
   145
   61
   90
   104
   141
   Other labs: PT / PTT / INR:13.9/26.8/1.2, CK / CKMB /
   Troponin-T:73/4/0.14, ALT / AST:22/24, Alk Phos / T Bili:66/0.4,
   Differential-Neuts:92.1 %, Band:5.0 %, Lymph:4.4 %, Mono:3.0 %, Eos:0.4
   %, Lactic Acid:2.6 mmol/L, Albumin:2.2 g/dL, LDH:161 IU/L, Ca++:7.3
   mg/dL, Mg++:1.6 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   82 yo female with respiratory failure and significant and prolonged
   intubation with altered mental status and prominent secretions limiting
   capacity to extubate.  She has tolerated diuresis well with no evidence
   of hemodynamic impact from the diuresis.
   1)Respiratory Failure
Patient has decresed secreations, she has
   persistent altered mental status with decreased responsiveness but no
   localizing findings.  She does cough with suctioning but does not
   follow commands.  She has RSBI <105 with PSV-8/0.  We have tried
   diuresis with some response.
   -Check NIF to evaluate for weakness is attractive but will not be able
   to comply
   -Trial 8/0 for SBT for 30 minutes
   -If favorable will move to extubation
   -If failure of extubation will have to consider tracheostomy
   2)ID-Pneumonia-
   -Vanco/Amikacin
   3)Altered Mental Status-
   Does have persistent and significant encephalopathy
   -Will Check head CT
   -Will continue Namenda/Aricept
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2192-8-17**] 12:50 PM
   Arterial Line - [**2192-8-17**] 02:52 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2192-08-25 07:40:00 Physician Resident Progress Note
Chief Complaint: 82 year old female with h/o breast cancer, cva, htn
   who presents from rehab with pneumonia and uti with sepsis physiology.
   previously intubated,  now s/p extubation yesterday.
   24 Hour Events:
   successfully extubated yesterday afternoon. post extubation gas
   7.43/39/99. ng tube placed.  patient with frothy white => clear
   secretions. ordered for ct head/chest without contrast to eval possible
   right hilar mass seen on chest x-ray.  IR requesting IV even though
   patient has RIJ.  Patient again with episode of hypertension
   overnight.  Given fentayl for pain. had to increase fentayl this
   morning to 25 q 2 for pain.  Vanco level 20/7 this AM.
   Allergies:
   Aspirin
   Unknown;
   Penicillins
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Gentamicin - [**2192-8-22**] 11:00 PM
   Vancomycin - [**2192-8-24**] 08:03 AM
   Amikacin - [**2192-8-24**] 08:04 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2192-8-24**] 06:54 PM
   Heparin Sodium - [**2192-8-25**] 04:18 AM
   Fentanyl - [**2192-8-25**] 04:19 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: none
   Flowsheet Data as of  [**2192-8-25**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36
C (96.8
   HR: 82 (69 - 96) bpm
   BP: 183/69(112) {143/52(82) - 192/77(115)} mmHg
   RR: 37 (13 - 37) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77 kg (admission): 64.8 kg
   Height: 66 Inch
    CVP: 5 (5 - 7)mmHg
   Total In:
                                                                    959 mL
                                                                    224 mL
   PO:
   TF:
                                                                    339 mL
   IVF:
                                                                    560 mL
                                                                    224 mL
   Blood products:
   Total out:
                                                                  5,930 mL
                                                                    925 mL
   Urine:
                                                                  5,870 mL
                                                                    925 mL
   NG:
                                                                     60 mL
   Stool:
   Drains:
   Balance:
                                                                 -4,971 mL
                                                                   -701 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 352 (352 - 422) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 0 cmH2O
   FiO2: 40%
   PIP: 18 cmH2O
   SpO2: 96%
   ABG: 7.43/39/99.[**Numeric Identifier 128**]/26/1
   Ve: 8.2 L/min
   PaO2 / FiO2: 248
   Physical Examination
   General Appearance: No acute distress, lethargic, opens eyes, localizes
   pain
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), no murmur
   appreaciated
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: diffusely over lung
   bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: No(t) Follows simple commands, Responds to: Noxious
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   312 K/uL
   9.4 g/dL
   69 mg/dL
   0.9 mg/dL
   26 mEq/L
   3.2 mEq/L
   15 mg/dL
   106 mEq/L
   142 mEq/L
   28.7 %
   26.1 K/uL
        [image002.jpg]
                             [**2192-8-22**]  05:33 AM
                             [**2192-8-22**]  06:00 AM
                             [**2192-8-22**]  07:59 PM
                             [**2192-8-23**]  03:58 AM
                             [**2192-8-23**]  05:43 PM
                             [**2192-8-23**]  08:36 PM
                             [**2192-8-24**]  03:46 AM
                             [**2192-8-24**]  09:00 PM
                             [**2192-8-25**]  01:47 AM
                             [**2192-8-25**]  02:07 AM
   WBC
   22.8
   24.0
   26.1
   Hct
   26.8
   26.1
   28.7
   Plt
   133
   195
   312
   Cr
   0.7
   0.7
   0.8
   0.9
   0.9
   TCO2
   24
   24
   28
   27
   Glucose
   40
   145
   61
   90
   104
   141
   69
   Other labs: PT / PTT / INR:13.1/25.7/1.1, CK / CKMB /
   Troponin-T:73/4/0.14, ALT / AST:22/24, Alk Phos / T Bili:66/0.4,
   Differential-Neuts:92.1 %, Band:5.0 %, Lymph:4.4 %, Mono:3.0 %, Eos:0.4
   %, Lactic Acid:2.6 mmol/L, Albumin:2.2 g/dL, LDH:161 IU/L, Ca++:7.3
   mg/dL, Mg++:1.8 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   82 year old female with a history of breast cancer, CVA, hypertension
   who presents from rehab with pneumonia, urinary tract infection, and
   septic physiology.
   Septic Shock:  Patient was with SIRS with E coli in blood and urine, as
   well as providencia stuartii in urine. CXR shows bibasilar
   consolidations as well concerning for possible pneumonia. Sputum
   culture with gram + cocci however this has not grown out so far in
   speciation. Presentation lactate was 3.4, then trended down.  Repeat
   urine culture now negative.
   - repeat sputum culture - GRAM STAIN (Final [**2192-8-20**]): >25 PMNs and <10
   epithelial cells/100X field. 3+  (5-10 per 1000X FIELD):   GRAM
   POSITIVE COCCI. IN PAIRS AND CHAINS.
   2+   (1-5 per 1000X FIELD):   MULTIPLE ORGANISMS CONSISTENT WITH
   OROPHARYNGEAL FLORA.
   RESPIRATORY CULTURE (Final [**2192-8-22**]): SPARSE GROWTH OROPHARYNGEAL
   FLORA.
   - vanc trough 20.7 this AM so she is definitely therapeutic on vanc
   - urine culture 9./17
 no growth final
   - c. diff negative [**8-22**]
   - Urine -urine cx - URINE CULTURE (Final [**2192-8-20**]): ESCHERICHIA
   COLI.    10,000-100,000 ORGANISMS/ML.. PROVIDENCIA STUARTII.
   10,000-100,000 ORGANISMS/ML..
   - currently on  amikacin and vancomycin, allergy to PCN (previously on
   levoquin and aztreonam as well)
 levoquin was d/c in the setting of
   gram positive cocci in the sputum after 3 day course and aztreonam was
   d/c as no sensitivities identified to e. coli or providenciaa stuartii
   and aztreonam with poor gram + coverage
   - currently off all pressors, now hypertensive
   - wbc count continuese to trend up with bandemia
 repeat Ucx is clean,
   c diff negative, may suggest that pneumonia is not being adequately
   treated, however patient remains afebrile, also able to be extubated
   yesterday so clinically improved
   - chest x-ray [**8-24**] - PFI: New right round perihilar mass concerning for
   possible loculated fluid, abscess, tumor.
   - consider ct of chest for furthur evaluation
    Respiratory Failure: Initially respiratory failure likely due to
   pneumonia/sepsis. Suspect that also be aspect of deconditioning.
   Patient now off ventilator completely breathing on roomm air.  Given IV
   lasix yesterday had large diuresis
   -  will hold off on additional antibiotics at this time
   -culture data and antibiotics as above
   - Suction PRN
    Mental status
   - patient is now responsive to verbal stimuli, opening her eyes. Will
   squeeze hands in response to her name. moves legs spontaneously.
   Currently not speaking, although as per [**Hospital3 **] at  baseline
   answers with one word
   - may be in the setting of severe illness and previously being on
   sedation that patient has severe dementia at baseline
    Hypertension:
   - initially holding anti-hypertensives in the setting  of hypotension,
   now restarted
   - IV hydral PRN for elevated blood pressure, but trying to get on
   better beta blocker/ace regimen
   - increased lisinopril yesterday to 5, will again increase today to 10
   mg po daily
   -increased metoprolol to 75 TID yesterday, will uptitrate to 100 mg TID
   with holding parameters for HR and SBP
   - will hold off on additional lasix today for pressure control
   Anemia: Hematocrit drop; normocytic normochromic with iron profile
   sugesting chornic disease or infection. It is not that likely massive
   GI bleed in patient that did not move bowels since blood is prokinetic.
   Will guaiac stool when available.
   - crit is stable
   -Patient guaic positive in the ED, guiac positive stool
   - Coffee ground emesis from NG tube; guaiac negative
   - likely requires outpatient colonscopy, which is non-emergent
   - continue to follow
    ARF: Creatinine 2.0 on admission, from baseline of 0.6 today improved
   baseline.  Likely prerenal in etiology secondary to volume depletion
   and septic shock
 likely ATN. No cast seen in UA, but it was not
   fresh. Today
s eGFR is 46 (MDRD formula) so may restart ACEI.
   EKG Changes:  Patient with ST depressions in the setting of sinus
   tachycardia to the 130s with multiple negative troponins. This was
   likely demand ischemia in setting of hypotension. repeat EKG from [**8-20**]
   EKG Sinus rhythm. Premature ventricular contractions. Poor R wave
   progression may be lead placement or possible old anterior myocardial
   infarction. Compared to the previous tracing of [**2192-8-18**] axis has
   shifted rightward. Ventricular ectopy is new.  ECHO from [**8-20**] -
   IMPRESSION: Mild focal LV systolic dysfunction. Mildly dilated right
   ventricle. Mild to moderate aortic regurgitation. Moderately dilated
   ascending aorta.
    Dementia:  patient still with decreased mental status despite being
   off the ventilator.
   - namenda and aricept yesterday
    FEN:
   - tube feeds
   -check pm lytes, replete electrolytes as needed.
    Prophylaxis: SC heparin, holding bowel regimen for diarrhea, ppi
    Access: RIJ, will d/c a-line
    Communcation: Sister [**Name (NI) **] [**Name (NI) 5333**] [**Telephone/Fax (1) 5334**]
    Code: Full Code.
   Dispo: call out to floor today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2192-8-17**] 12:50 PM
   Arterial Line - [**2192-8-17**] 02:52 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: